US05962458
A mixture of 4-(4-chloro-2-fluorophenoxy)-7-hydroxy-6-methoxyquinazoline (112 mg, 0.35 mmol), potassium carbonate (138 mg, 1 mmol) and 4-(chloromethyl)pyridine hydrochloride (59 mg, 0.36 mmol) in DMF (2 ml) was heated at 80° C. for 1 hour. The mixture was allowed to cool and partitioned between ethyl acetate and water. The organic layer was separated, washed with water and brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (95/5) to give 4-(4-chloro-2-fluorophenoxy)-6-methoxy-7-((4-pyridyl)methoxy)quinazoline (115 mg, 80%).

reactant | 4-(4-chloro-2-fluorophenoxy)-7-hydroxy-6-methoxyquinazoline | 0.35 mmol, 112 mg | ClC1=CC(=C(OC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H10ClFN2O3
reactant | potassium carbonate | 1 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(chloromethyl)pyridine hydrochloride | 0.36 mmol, 59 mg | Cl.ClCC1=CC=NC=C1
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-(4-chloro-2-fluorophenoxy)-6-methoxy-7-((4-pyridyl)methoxy)quinazoline | 115 mg, 80% | ClC1=CC(=C(OC2=NC=NC3=CC(=C(C=C23)OC)OCC2=CC=NC=C2)C=C1)F | C21H15ClFN3O3
